US03960858
B: 3-(4-Phenyl-1-piperazinylcarbonyl)-1,3,4,5-tetrahydro-2,3-benzoxazepine
To a solution of 4.22 g. (26 mmoles) of N-phenylpiperazine in CH2Cl2, 4.24 g. (20 mmoles) of 3-chlorocarbonyl-1,3,4,5-tetrahydro-2,3-benzoxazepine was added and the mixture was refluxed for 2 hours, cooled, washed with NaHCO3 and with H2O, dried over Na2SO4 and the solvent evaporated. Yield 5.5 g. (81.5%), m.p. 123°- 125°C, recrystallized from EtOH.

reactant | N-phenylpiperazine | 26 mmoles | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 3-chlorocarbonyl-1,3,4,5-tetrahydro-2,3-benzoxazepine | 20 mmoles | ClC(=O)N1OCC2=C(CC1)C=CC=C2 | C10H10ClNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Phenyl-1-piperazinylcarbonyl)-1,3,4,5-tetrahydro-2,3-benzoxazepine | C1(=CC=CC=C1)N1CCN(CC1)C(=O)N1OCC2=C(CC1)C=CC=C2 | C20H23N3O2
